US08791134B2
1-Methyl-4-nitrosopiperidin-4-yl 3,5-difluorobenzoate is prepared from 1-methyl-piperidin-4-one oxime, lead tetraacetate and 3,5-difluorobenzoic acid using conditions of General Method 3.

reactant | 1-methyl-piperidin-4-one oxime | CN1CCC(CC1)=NO | C6H12N2O
reactant | lead tetraacetate | C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].C(C)(=O)[O-].[Pb+4]
reactant | 3,5-difluorobenzoic acid | FC=1C=C(C(=O)O)C=C(C1)F | C7H4F2O2
product | 1-Methyl-4-nitrosopiperidin-4-yl 3,5-difluorobenzoate | FC=1C=C(C(=O)OC2(CCN(CC2)C)N=O)C=C(C1)F | C13H14F2N2O3
